US06680313B2
4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-hydroxyethyl)sulfonylimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate:
4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-hydroxyethyl)sulfinylimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate (a mixture of diastereomers) (50.1 mg) was dissolved in 1.8 ml of THF and 1.8 ml of a 1/15 M sodium phosphate buffer (pH 6.6). 10% Pd-C (54.7 mg) was added to the solution. The air in the reaction vessel was replaced by hydrogen, and the contents of the reaction vessel were stirred at room temperature for 50 min. The catalyst was removed by filtration on Celite, and was washed with water. The filtrate was adjusted to pH 7.0 by the addition of an aqueous sodium hydrogencarbonate solution, and was then washed with ethyl acetate. The aqueous layer was then purified by column chromatography on Cosmosil 40C18-PREP (only water) to prepare 21.4 mg of the title compound.

reactant | 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-hydroxyethyl)sulfinylimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)S(=O)CCO)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C24H24N4O8S2
reactant | sodium phosphate | 15 M, pH 6.6 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | THF | 1.8 ml | C1CCOC1 | C4H8O
catalyst | Pd-C | 54.7 mg | [Pd] | Pd
product | 4-Nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(2-hydroxyethyl)sulfonylimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)S(=O)(=O)CCO)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C24H24N4O9S2
